US07713994B2
A solution of 4-(5-methyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenylamine (0.1 g, 0.49 mmol), 6-Iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione (0.2 g, 0.6 mmol), and N,N-dimethylformamide (0.2 mL) is heated at 90° C. overnight. After the solvent is removed, the residue is treated with ethyl ether and filtered to give crude product as light brown solid. It is purified by HPLC to yield 97 mg (39% yield) of 6-iodo-4-{[4-(5-methyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione as bright orange solid. mp 210-211° C.

reactant | 4-(5-methyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenylamine | 0.49 mmol, 0.1 g | CN1C2CN(C(C1)C2)C2=CC=C(C=C2)N | C12H17N3
reactant | 6-Iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.6 mmol, 0.2 g | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8INO3
solvent | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
product | 6-iodo-4-{[4-(5-methyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 97 mg, 39% yield | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)N1C2CN(C(C1)C2)C | C22H21IN4O2
